US05719278
8-Chloro-2,4,5,6-tetrahydro-2-methyl-6-(4-nitrobenzyl)pyrazolo[3,4-d]thieno[3,2-b]azepine
A mixture of 500 mg of 2-chloro-7-[(dimethylamino)methylene]-4,5,6,7-tetrahydro-4-(4-nitrobenzoyl)-8H-thieno[3,2-b]azepin-8-one in 15 ml of absolute methanol is stirred under argon while 131 μl of N-methylhydrazine is added. The reaction mixture is heated at 80° C. for 18 hours. The reaction mixture is cooled to room temperature and concentrated in vacuo to give 420 mg of the desired product as a solid.

reactant | 2-chloro-7-[(dimethylamino)methylene]-4,5,6,7-tetrahydro-4-(4-nitrobenzoyl)-8H-thieno[3,2-b]azepin-8-one | 500 mg | ClC1=CC=2N(CCC(C(C2S1)=O)=CN(C)C)C(C1=CC=C(C=C1)[N+](=O)[O-])=O | C18H16ClN3O4S
reactant | N-methylhydrazine | 131 μl | CNN | CH6N2
solvent | methanol | 15 ml | CO | CH4O
product | 8-Chloro-2,4,5,6-tetrahydro-2-methyl-6-(4-nitrobenzyl)pyrazolo[3,4-d]thieno[3,2-b]azepine | 420 mg | ClC1=CC=2N(CCC=3C(C2S1)=NN(C3)C)CC3=CC=C(C=C3)[N+](=O)[O-] | C17H15ClN4O2S
